US07435815B2
N-Ethyl-2-[(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-pyridin-2-ylmethyl-acetamide
prepared by reaction of [(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid with ethyl-pyridin-2-ylmethyl-amine

reactant | [(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | CC=1C(=NC=CC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C15H16N2O4S
reactant | ethyl-pyridin-2-ylmethyl-amine | C(C)NCC1=NC=CC=C1 | C8H12N2
product | N-Ethyl-2-[(3-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-pyridin-2-ylmethyl-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=NC=CC=C1C)=O)CC1=NC=CC=C1 | C23H26N4O3S
